US04036965
To the stirred suspension of 1.08 g of sodium hydride in 25 ml of dimethylformamide the solution of 9.0 g of m-trifluoromethylbenzylmercaptan in 50 ml of dimethylformamide is added during 3 minutes and the mixture stirred for 10 minutes. It is combined with 7.75 g of 6-methyl-5-nitropyridine-2-carboxylic acid methyl ester and the whole stirred on the steam bath for 30 minutes and allowed to stand overnight at room temperature. 2 ml of acetic acid are added and the solution is mixed with ice water to produce a dense, grainy precipitate. It is filtered off and recrystallized from isopropanol-diethyl ether, to yield the 6-methyl-5-(m-trifluoromethylbenzylmercapto)-pyridine-2-carboxylic acid methyl ester melting at 91°-93°.

reactant | sodium hydride | 1.08 g | [H-].[Na+]
reactant | m-trifluoromethylbenzylmercaptan | 9.0 g | FC(C=1C=C(CS)C=CC1)(F)F | C8H7F3S
reactant | 6-methyl-5-nitropyridine-2-carboxylic acid methyl ester | 7.75 g | COC(=O)C1=NC(=C(C=C1)[N+](=O)[O-])C | C8H8N2O4
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-methyl-5-(m-trifluoromethylbenzylmercapto)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1)SCC1=CC(=CC=C1)C(F)(F)F)C | C16H14F3NO2S
